US08211914B2
Preparation of 4-(4-{4-[(5-ethyl-2-phenyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidin-1-yl)-benzoic acid
With the same method used for the preparation of 4-(4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidin-1-yl)-benzoic acid, 3-(4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidin-1-yl)-benzoic acid was prepared from 2-phenyl-5-ethyl-oxazole-4-carboxylic acid (4-piperidin-4-yl-phenyl)-amide and 4-bromobenzoic acid tert-butyl ester. LC-MS for C30H29N3O4 (m/e) calcd 495, obsd 496 (M+H). 1H-NMR is consistent with the desired structure.

reactant | 4-(4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidin-1-yl)-benzoic acid | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)NC1=CC=C(C=C1)C1CCN(CC1)C1=CC=C(C(=O)O)C=C1)C(F)(F)F | C29H24F3N3O4
reactant | 3-(4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidin-1-yl)-benzoic acid | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)NC1=CC=C(C=C1)C1CCN(CC1)C=1C=C(C(=O)O)C=CC1)C(F)(F)F | C29H24F3N3O4
reactant | 2-phenyl-5-ethyl-oxazole-4-carboxylic acid (4-piperidin-4-yl-phenyl)-amide | N1CCC(CC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1CC)C1=CC=CC=C1 | C23H25N3O2
reactant | 4-bromobenzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=CC=C(C=C1)Br)=O | C11H13BrO2
product | 4-(4-{4-[(5-ethyl-2-phenyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidin-1-yl)-benzoic acid | C(C)C1=C(N=C(O1)C1=CC=CC=C1)C(=O)NC1=CC=C(C=C1)C1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | C30H29N3O4
